US07790747B2
2-Chloro-6-cyano-4-methyl-nicotinic acid (0.315 g, 1.61 mmol) in concentrated HCl (8 ml) was heated at 100° C. for 45 minutes and then all solvent was removed in vacuo to yield a pale yellow crystalline solid. The crude solid, EDCI (0.339 g, 1.77 mmol) and HOBt (0.239 g, 1.77 mmol) were combined in DMF (8 ml) to give a pale yellow solution. To this solution was added DIPEA (1.85 ml, 10.6 mmol) followed by isopropylamine (137 μL, 1.61 mmol) and the resulting mixture was stirred at 25° C. for 16 hours. The reaction mixture was quenched with water (3 ml) and then dry loaded onto silica gel and purified using column chromatography (MeCN/MeOH/NH4OH, 8:1:1, v/v/v) to give 2-chloro-6-isopropylcarbamoyl-4-methyl-nicotinic acid (0.195 g, 47%).

reactant | 2-Chloro-6-cyano-4-methyl-nicotinic acid | 1.61 mmol, 0.315 g | ClC1=C(C(=O)O)C(=CC(=N1)C#N)C | C8H5ClN2O2
reactant | EDCI | 1.77 mmol, 0.339 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 1.77 mmol, 0.239 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 10.6 mmol, 1.85 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | isopropylamine | 1.61 mmol, 137 μL | C(C)(C)N | C3H9N
solvent | HCl | 8 ml | Cl | ClH
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 2-chloro-6-isopropylcarbamoyl-4-methyl-nicotinic acid | 0.195 g, 47% | ClC1=C(C(=O)O)C(=CC(=N1)C(NC(C)C)=O)C | C11H13ClN2O3
